US05314795
Into a 100 ml flask equipped with magnetic stirrer were placed 2.45 g (0.01 mol) of 4-nitrophenylsulfonylacetic acid and 50 ml of acetone. Stirring was begun and upon dissolution of the acid, 4.0 g of a 25% methanolic solution (i.e., 1.00 g, 0.011 mol) of tetramethylammonium hydroxide was slowly added, dropwise over a 15 min period. A precipitate formed in the dark red solution. Filtration, washing with acetone (10 ml) and drying in air afforded 2.9 g (91%) of tetramethylammonium 4-nitrophenylsulfonylacetate (Compound C1-A1). 1H and 13C NMR were in agreement with the proposed structure.

reactant | 4-nitrophenylsulfonylacetic acid | 0.01 mol, 2.45 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)CC(=O)O | C8H7NO6S
reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | tetramethylammonium 4-nitrophenylsulfonylacetate | 2.9 g, 91% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)CC(=O)[O-].C[N+](C)(C)C | InChI=1S/C8H7NO6S.C4H12N/c10-8(11)5-16(14,15)7-3-1-6(2-4-7)9(12)13;1-5(2,3)4/h1-4H,5H2,(H,10,11);1-4H3/q;+1/p-1
